US07544690B2
To a solution of N2-(1-benzyl-pyrrolidin-3-yl)-N4,N4-dimethyl-quinazoline-2,4-diamine (3.3 g, 9.5 mmol) in MeOH (33 mL) was added Pd(OH)2 (660 mg). The mixture was stirred at ambient temperature under hydrogen atmosphere for 13 hr, and stirred at 50° C. for 6 hr. The mixture was filtered, concentrated, and purified by medium-pressure liquid chromatography (NH-silica gel, 1% to 3% MeOH in CHCl3) to give N4,N4-dimethyl-N2-pyrrolidin-3-yl-quinazoline-2,4-diamine (2.3 g, 93%) as a yellow oil.

reactant | N2-(1-benzyl-pyrrolidin-3-yl)-N4,N4-dimethyl-quinazoline-2,4-diamine | 9.5 mmol, 3.3 g | C(C1=CC=CC=C1)N1CC(CC1)NC1=NC2=CC=CC=C2C(=N1)N(C)C | C21H25N5
solvent | MeOH | 33 mL | CO | CH4O
catalyst | Pd(OH)2 | 660 mg | [OH-].[OH-].[Pd+2]
product | N4,N4-dimethyl-N2-pyrrolidin-3-yl-quinazoline-2,4-diamine | 2.3 g, 93% | CN(C1=NC(=NC2=CC=CC=C12)NC1CNCC1)C | C14H19N5
